US07351858B2
Tert-butyl (4-{2-[(methylsulfonyl)oxy]ethyl}phenoxy)acetate (5.454 g, 17.347 mmol) was dissolved in acetonitrile (100 ml), methyl 2-mercaptobenzoate (3.502 g, 20.816 mmol) and potassium carbonate (4.795 g, 34.694 mmol) was added. The solution was stirred for 10 hours at 60° C. EtOAc (40 ml) was added and the organic phase was washed with two portions of Brine (2×40 ml, aq). The organic layer was dried (MgSO4) and the solvent was removed by evaporation to give 6.931 g of methyl 2-({2-[4-(2-tert-butoxy-2-oxoethoxy)phenyl]ethyl}thio)benzoate. This material was used in the next step without further purification.

reactant | Tert-butyl (4-{2-[(methylsulfonyl)oxy]ethyl}phenoxy)acetate | 17.347 mmol, 5.454 g | CS(=O)(=O)OCCC1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C15H22O6S
reactant | methyl 2-mercaptobenzoate | 20.816 mmol, 3.502 g | SC1=C(C(=O)OC)C=CC=C1 | C8H8O2S
reactant | potassium carbonate | 34.694 mmol, 4.795 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | 40 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | methyl 2-({2-[4-(2-tert-butoxy-2-oxoethoxy)phenyl]ethyl}thio)benzoate | 6.931 g | C(C)(C)(C)OC(COC1=CC=C(C=C1)CCSC1=C(C(=O)OC)C=CC=C1)=O | C22H26O5S
